US04113940
Acetic acid (8 ml) and zinc powder (6 g) were added under ice-cooling to a solution of 2,2,2-trichloroethyl 2-methyl-7-[2-(5-methyl-1,3,4-thiadiazol-2-yloxy)acetamido]-3-cephem-4-carboxylate (6.60 g) in anhydrous dimethylformamide (40 ml), and the mixture was stirred for 1.5 hours. After the reaction, zinc powder was filtered and washed with dimethylformamide. The filtrate and the washings were combined, and the combined solution was poured into an ice-cooled mixture of ethyl acetate and 2 to 3% hydrochloric acid, and then extracted. The extract was extracted with a sodium bicarbonate aqueous solution and the aqueous solution was acidified with hydrochloric acid, and then extracted with ethyl acetate. The aqueous layer was saturated with sodium chloride, and then extracted, four times with ethylacetate (80 ml), after which the both ethyl acetate extract was combined. After the combined extracted was dried over magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was crystallized by adding ether to give dimethylformamide adduct of 2-methyl-7-[2-(5 -methyl-1,3,4-thiadiazol-2-yloxy)acetamido]-3-cephem-4-carboxylic acid (2.0 g), mp 113° to 116° C.

reactant | Acetic acid | 8 ml | C(C)(=O)O | C2H4O2
reactant | 2,2,2-trichloroethyl 2-methyl-7-[2-(5-methyl-1,3,4-thiadiazol-2-yloxy)acetamido]-3-cephem-4-carboxylate | 6.60 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(COC=2SC(=NN2)C)=O)=O | C15H15Cl3N4O5S2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 6 g | [Zn] | Zn
product | 2-methyl-7-[2-(5 -methyl-1,3,4-thiadiazol-2-yloxy)acetamido]-3-cephem-4-carboxylic acid | 2.0 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(COC=2SC(=NN2)C)=O)=O | C13H14N4O5S2
